US06627637B2
To a suspension of 7-chloro-9-nitro-β-carboline (548 mg, 2.22 mmol) in EtOH (14 ml) at 65° C. to 70° C. was added tin chloride dihydrate (2.5 g, 11.1 mmol). Thereafter, 6M aqueous HCl (14 ml) was added dropwise. The mixture was stirred at 70° C. to 80° C. for 3.5 h and then partitioned slowly into saturated aqueous NaHCO3 (150 ml) and EtOAc (100 ml). The aqueous phase was extracted (2 times) and the combined organic solutions dried (brine; NaSO4) and concentrated to give 484 mg of 9-amino-7-chloro-β-carboline.

reactant | 7-chloro-9-nitro-β-carboline | 2.22 mmol, 548 mg | ClC1=CC=C2C=3C=CN=CC3N(C2=C1)[N+](=O)[O-] | C11H6ClN3O2
reactant | tin chloride dihydrate | 11.1 mmol, 2.5 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | HCl | 6M, 14 ml | Cl | ClH
solvent | EtOH | 14 ml | CCO | C2H6O
product | 9-amino-7-chloro-β-carboline | 484 mg | NN1C2=CC(=CC=C2C=2C=CN=CC12)Cl | C11H8ClN3
